* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\Butterworth_amplifier_10dB.asc
XU1 0 N004 P001 P002 N003 LF356
R1 N003 N004 1.3Meg
C1 N003 N002 1nF
C2 N004 N002 1nF
R2 N002 P003 258k
R3 0 N002 3.64k
R4 N001 N003 287k
R5 N001 0 4.04k
C3 N005 N001 1nF
C4 Vout N001 1nF
R6 Vout N005 1.45Meg
XU2 0 N005 P004 P005 Vout LF356
V3 P003 0 AC 1
V1 P001 0 5
V2 P004 0 5
V4 P005 0 -5
V5 P002 0 -5
.ac dec 10000 1000 10000
.lib LF356.sub
.backanno
.end
