* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\Butterworth_amplifier_10dB.asc
XU1 0 N004 +5 -5 N003 LF356
R1 N003 N004 1.3Meg
C1 N003 N002 1nF
C2 N004 N002 1nF
R2 N002 P001 258k
R3 0 N002 3.64k
R4 N001 N003 287k
R5 N001 0 4.04k
C3 N005 N001 1nF
C4 Vout N001 1nF
R6 Vout N005 1.45Meg
XU2 0 N005 +5 -5 Vout LF356
V3 P001 0 AC 1
V1 +5 0 5
V2 -5 0 -5
.ac dec 100 100 100000
.lib LF356.sub
.backanno
.end
